US09290485B2
a) Methanesulfonic acid 1,1-dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-ylmethyl ester
To a solution of (1,1-Dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-yl)-methanol (crude, 160 mg, 0.64 mmol) and triethylamne (180 ul, 1.29 mmol) in DCM (7 ml) Methanesulfonylchloride (60 ul, 0.77 mmol) was added at rt. The reaction mixture was stirred at it for 3 hours.

reactant | (1,1-Dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-yl)-methanol | 0.64 mmol, 160 mg | O=S1(C2=C(CC1)C=C(C=C2)CO)=O | C9H10O3S
reactant | DCM | 0.77 mmol, 7 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 1,1-dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-ylmethyl ester | O=S1(C2=C(CC1)C=C(C=C2)COS(=O)(=O)C)=O | C10H12O5S2
